US05441731
17-Bromoheptadec-6-en-l-ol (33.8 g) was subjected to hydrogenation in a Paar hydrogenation apparatus (50 psi initial hydrogen pressure), using ethanol as solvent and 10% palladium on charcoal as catalyst, to yield 17-bromoheptadecan-1-ol (26.1 g, 76% yield).

reactant | 17-Bromoheptadec-6-en-l-ol | 33.8 g | BrCCCCCCCCCCC=CCCCCCO | C17H33BrO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 17-bromoheptadecan-1-ol | 26.1 g, 76% yield | BrCCCCCCCCCCCCCCCCCO | C17H35BrO
